US04366315
1.2 g (6.8 mmoles) of N-bromosuccinimide were added to an ice-cooled solution of 1.4 g (4 mmoles) of methyl 7-benzamido-3-methyl-3-cephem-4-carboxylate-1-oxide in a mixture of 25 ml of dichloromethane and 50 ml of acetic acid. The mixture was stirred and irradiated with a 150 W tungsten lamp for 1.5 hours. The reaction mixture was poured into water and dichloromethane and the organic layer was separated and washed three times with 500 ml of water. After treatment with activated charcoal, it was dried over magnesium sulfate and filtered. The filtrate was concentrated to about 20 ml in vacuo and the product was precipiated by addition of 150 ml of diethyl ether. The mixture was filtered and the product was washed with diethyl ether. It was crystallized by dissolving it in 100 ml of refluxing dichloromethane and precipitation by addition of 100 ml of diethyl ether to obtain 1.0 g pure methyl 7-benzamido-3-bromomethyl-3-cephem-4-carboxylate-1-oxide (yield 58.8%).

reactant | N-bromosuccinimide | 6.8 mmoles, 1.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | methyl 7-benzamido-3-methyl-3-cephem-4-carboxylate-1-oxide | 4 mmoles, 1.4 g | C(C1=CC=CC=C1)(=O)NC1[C@@H]2N(C(=C(CS2=O)C)C(=O)OC)C1=O | C16H16N2O5S
reactant | water | O | H2O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | tungsten | [W] | W
product | methyl 7-benzamido-3-bromomethyl-3-cephem-4-carboxylate-1-oxide | 1.0 g, yield 58.8% | C(C1=CC=CC=C1)(=O)NC1[C@@H]2N(C(=C(CS2=O)CBr)C(=O)OC)C1=O | C16H15BrN2O5S
